US05932674
N-[1-(2,2-Dimethoxyethylcarbamoyl)-1-methylethyl]acrylamide
62.62 g (0.45 mol) of 4,4-dimethyl-2-vinyl-4H-oxazol-5-one (azalactone) are introduced into 275 g of tert-butyl methyl ether. 47.34 g (0.45 mol) of aminoacetaldehyde dimethyl acetal are slowly added with stirring. The product is formed as a white precipitate, which is filtered off, washed with tert-butyl methyl ether and dried, giving 106 g (96.5% of theory) of a white product of melting point 80-82° C.

reactant | 4,4-dimethyl-2-vinyl-4H-oxazol-5-one | 0.45 mol, 62.62 g | CC1(N=C(OC1=O)C=C)C | C7H9NO2
reactant | aminoacetaldehyde dimethyl acetal | 0.45 mol, 47.34 g | COC(CN)OC | C4H11NO2
solvent | tert-butyl methyl ether | 275 g | COC(C)(C)C | C5H12O
product | N-[1-(2,2-Dimethoxyethylcarbamoyl)-1-methylethyl]acrylamide | COC(CNC(=O)C(C)(C)NC(C=C)=O)OC | C11H20N2O4
